### PR TITLE
[Merged by Bors] - feat: `ℕ`, `ℤ` and `ℚ≥0` are star-ordered rings

### PR DESCRIPTION
**Pull request by YaelDillies**
Also golf the existing instance for `ℚ` and rename `Rat.num_nonneg_iff_zero_le` to `Rat.num_nonneg`, `Rat.num_pos_iff_pos` to `Rat.num_pos`.

From LeanAPAP

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/GroupTheory/Submonoid/Operations.lean [hunk 1]
```diff
@@ -1618,4 +1624,54 @@ noncomputable def unitsTypeEquivIsUnitSubmonoid [Monoid M] :
...
-end Units
\ No newline at end of file
+end Units
+
+open AddSubmonoid Set
+
+namespace Nat
+
+@[simp] lemma addSubmonoid_closure_one : closure ({1} : Set ℕ) = ⊤ := by
+  refine (eq_top_iff' _).2 $ Nat.rec (zero_mem _) ?_
```
Comment (eric-wieser) [inline Mathlib/GroupTheory/Submonoid/Operations.lean:1634]:
```suggestion
  refine (eq_top_iff' _).2 <| Nat.rec (zero_mem _) ?_
```
and throughout

**Comment by eric-wieser** [comment]
Can you update the PR title and description, in light of the existing instances?

**Comment by YaelDillies** [comment]
Done

File: Mathlib/Data/Rat/Star.lean [hunk 2]
```diff
@@ -1,52 +1,42 @@
...
+    closure (range fun x : ℚ ↦ x ^ n) = nonneg _ := by
+  refine le_antisymm (closure_le.2 <| range_subset_iff.2 hn.pow_nonneg) fun x hx ↦ ?_
+  suffices x = (x.num.natAbs * x.den ^ (n - 1)) • (x.den : ℚ)⁻¹ ^ n by
+    rw [this]; exact nsmul_mem (subset_closure <| mem_range_self _) _
+  rw [nsmul_eq_mul]
+  push_cast
+  rw [mul_assoc, pow_sub₀, pow_one, mul_right_comm, ← mul_pow, mul_inv_cancel, one_pow, one_mul,
+    ← Int.cast_ofNat, Int.coe_natAbs, abs_of_nonneg, ← div_eq_mul_inv, num_div_den]
+  rw [mem_nonneg] at hx
+  all_goals simp [x.den_pos.ne', Nat.one_le_iff_ne_zero, *]
```
Comment (eric-wieser) [inline Mathlib/Data/Rat/Star.lean:33]: Can you prove this in terms of `NNRat.addSubmonoid_closure_range_pow` or vice, by composing both sides with a map / comap by the coercion?

File: Mathlib/Data/Rat/Star.lean [hunk 3]
```diff
@@ -1,52 +1,42 @@
...
-  StarOrderedRing.ofNonnegIff (fun {_ _} => add_le_add_left) fun x => by
-    refine'
-      ⟨fun hx => _, fun hx =>
-        AddSubmonoid.closure_induction hx (by rintro - ⟨s, rfl⟩; exact mul_self_nonneg s) le_rfl
-          fun _ _ => add_nonneg⟩
-    /- If `x = p / q`, then, since `0 ≤ x`, we have `p q : ℕ`, and `p / q` is the sum of `p * q`
-      copies of `(1 / q) ^ 2`, and so `x` lies in the `AddSubmonoid` generated by square elements.
-
-      Note: it's possible to rephrase this argument as `x = (p * q) • (1 / q) ^ 2`, but this would
-      be somewhat challenging without increasing import requirements. -/
```
Comment (eric-wieser) [inline Mathlib/Data/Rat/Star.lean:40]: I'm slightly worried that this PR has increased import requirements in general, but maybe we don't care

I'll let @j-loreaux decide.

File: Mathlib/GroupTheory/Subgroup/Basic.lean [hunk 4]
```diff
@@ -756,7 +756,7 @@ theorem coe_zpow (x : H) (n : ℤ) : ((x ^ n : H) : G) = (x : G) ^ n :=
 #align subgroup.coe_zpow Subgroup.coe_zpow
 #align add_subgroup.coe_zsmul AddSubgroup.coe_zsmul
 
-@[to_additive (attr := simp)]
+@[to_additive]
 theorem mk_eq_one_iff {g : G} {h} : (⟨g, h⟩ : H) = 1 ↔ g = 1 :=
```
Comment (eric-wieser) [inline Mathlib/GroupTheory/Subgroup/Basic.lean:760]: What was the reason for removing `simp` here?

Comment (YaelDillies) [reply Mathlib/GroupTheory/Subgroup/Basic.lean:760]: `AddSubmonoid.mk_eq_zero` proves it (as reported by simp nf)

File: Mathlib/Data/Rat/Star.lean (hunk 2 above)
Comment (YaelDillies) [reply Mathlib/Data/Rat/Star.lean:33]: I don't see how because I can prove that `(closure (range fun x : α ↦ x ^ n)).map f ≤ closure (range fun x : β ↦ x ^ n)` if `f : α → β`, but that only tells me that `closure (range fun x : ℚ≥0 ↦ x ^ n) ≤ ⊤`.

File: Mathlib/GroupTheory/Subgroup/Basic.lean (hunk 4 above)
Comment (eric-wieser) [reply Mathlib/GroupTheory/Subgroup/Basic.lean:760]: Can you add a comment to that effect? Also, for consistency, either the new lemma should be called `mk_eq_one_iff`, or you should rename the existing one.

File: Mathlib/Algebra/Star/Order.lean [hunk 5]
```diff
@@ -257,3 +260,11 @@ lemma star_lt_one_iff {x : R} : star x < 1 ↔ x < 1 := by
...
 
 end Semiring
+
+instance Nat.instStarOrderedRing : StarOrderedRing ℕ where
+  le_iff a b := by
+    have : AddSubmonoid.closure (range fun x : ℕ ↦ x * x) = ⊤ :=
+      eq_top_mono
+        (AddSubmonoid.closure_mono <| singleton_subset_iff.2 <| mem_range.2 ⟨1, one_mul _⟩)
+        Nat.addSubmonoid_closure_one
+    simp [this, le_iff_exists_add]
```
Comment (semorrison) [inline Mathlib/Algebra/Star/Order.lean:270]: Why not put this in `Data/Nat/Star.lean` to avoid expanding imports?

File: Mathlib/Algebra/Star/Basic.lean [hunk 6]
```diff
@@ -474,8 +476,10 @@ def starRingOfComm {R : Type*} [CommSemiring R] : StarRing R :=
 
 instance Nat.instStarRing : StarRing ℕ := starRingOfComm
 instance Rat.instStarRing : StarRing ℚ := starRingOfComm
+instance NNRat.instStarRing : StarRing ℚ≥0 := starRingOfComm
 instance Nat.instTrivialStar : TrivialStar ℕ := ⟨fun _ ↦ rfl⟩
 instance Rat.instTrivialStar : TrivialStar ℚ := ⟨fun _ ↦ rfl⟩
+instance NNRat.instTrivialStar : TrivialStar ℚ≥0 := ⟨fun _ ↦ rfl⟩
```
Comment (semorrison) [inline Mathlib/Algebra/Star/Basic.lean:482]: The new instances could go in `Mathlib.Data.NNRat.Star` to avoid expanding imports.

Comment (eric-wieser) [reply Mathlib/Algebra/Star/Basic.lean:482]: I think if the `Rat` instances are already here, the `NNRat` ones are fine to go next to them

Comment (eric-wieser) [reply Mathlib/Algebra/Star/Basic.lean:482]: (But probably the right thing to do is move both)

Comment (YaelDillies) [reply Mathlib/Algebra/Star/Basic.lean:482]: Yes, `Rat` and `NNRat` are very close in import weight (and will soon become even more since I want to define `NNRat.cast`), so no point avoiding `NNRat` but not `Rat`

File: Mathlib/Algebra/Star/Order.lean (hunk 5 above)
Comment (YaelDillies) [reply Mathlib/Algebra/Star/Order.lean:270]: because there's no meaningful difference between `GroupTheory.Submonoid.Basic` and `GroupTheory.Submonoid.Operations` right now (I tried to make sense of where it's split and couldn't find a sensible justification), so I don't think it's worth bothering using one instead of the other until that's figured out.

File: Mathlib/Data/Rat/Star.lean (hunk 2 above)
Comment (j-loreaux) [reply Mathlib/Data/Rat/Star.lean:34]: I quickly hacked this together. As is it's not currently better than what's written, but perhaps it could be cleaned up into something nice.

```lean
import Mathlib

open AddSubmonoid Set Rat NNRat

@[simp] lemma addSubmonoid_closure_range_pow {n : ℕ} (hn₀ : n ≠ 0) (hn : Even n) :
    AddSubmonoid.closure (range fun x : ℚ ↦ x ^ n) = nonneg _ := by
  have h₁ := NNRat.addSubmonoid_closure_range_pow hn₀
  let coeRat : ℚ≥0 →+ ℚ := { toFun := (↑), map_zero' := rfl, map_add' := by simp }
  have h₂ := AddMonoidHom.map_mclosure coeRat (range fun x ↦ x ^ n) |>.symm
  rw [h₁] at h₂
  convert h₂
  · ext x
    simp only [mem_range, AddMonoidHom.coe_mk, ZeroHom.coe_mk, mem_image, exists_exists_eq_and,
      coe_pow]
    constructor
    · rintro ⟨y, rfl⟩
      obtain ⟨k, rfl⟩ := (even_iff_exists_two_mul n).mp hn
      simp_rw [pow_mul]
      use ⟨|y|, by positivity⟩
      simp
    · rintro ⟨y, rfl⟩
      exact ⟨y, rfl⟩
  · ext x
    simp only [mem_nonneg, mem_map, mem_top, AddMonoidHom.coe_mk, ZeroHom.coe_mk, true_and]
    refine ⟨(⟨⟨x, ·⟩, rfl⟩), by rintro ⟨x, rfl⟩; exact coe_nonneg x⟩
```

File: Mathlib/Data/Rat/Star.lean (hunk 3 above)
Comment (j-loreaux) [reply Mathlib/Data/Rat/Star.lean:40]: I think we don't care too much about this. I don't think we're using these `Star` instances (especially not the `StarOrderedRing` bits) very early in the hierarchy, are we? In fact, I haven't been aware of anything using this instance on `ℚ`. @YaelDillies, do you have plans to use this in many places?

**Review by j-loreaux — APPROVED** [review]
I'm basically happy with this, but I left a few comments above. The main question for me is, what about `ℤ`? But ultimately that can wait for a future PR.

File: Mathlib/Data/Rat/Star.lean (hunk 3 above)
Comment (YaelDillies) [reply Mathlib/Data/Rat/Star.lean:40]: I'm going to use those in discrete Fourier analysis, so that shouldn't be a problem

File: Mathlib/Data/Rat/Star.lean (hunk 2 above)
Comment (YaelDillies) [reply Mathlib/Data/Rat/Star.lean]: I managed to golf your proof dow to five lines. I think that's good enough!

**Comment by YaelDillies** [comment]
`ℤ` is now included and happy

**Comment by eric-wieser** [comment]
Please add it to the PR title

File: Mathlib/Data/Rat/Star.lean [hunk 7]
```diff
@@ -1,52 +1,64 @@
...
-        x
-      by exact this ▸ sum_mem fun n _ => AddSubmonoid.subset_closure ⟨_, rfl⟩
-    simp only [Function.const_apply, Finset.sum_const, Finset.card_range, nsmul_eq_mul]
-    rw [← Int.cast_ofNat, Int.ofNat_mul, Int.coe_natAbs,
-      abs_of_nonneg (num_nonneg.mpr hx), Int.cast_mul, Int.cast_ofNat]
-    rw [← mul_assoc, mul_assoc (x.num : ℚ), mul_one_div_cancel (Nat.cast_ne_zero.mpr x.pos.ne'),
-      mul_one, mul_one_div, Rat.num_div_den]
+@[simp] lemma addSubmonoid_closure_range_pow {n : ℕ} (hn₀ : n ≠ 0) (hn : Even n) :
+    closure (range fun x : ℚ ↦ x ^ n) = nonneg _ := by
+  convert (AddMonoidHom.map_mclosure NNRat.coeHom $ range fun x ↦ x ^ n).symm
```
Comment (eric-wieser) [inline Mathlib/Data/Rat/Star.lean:51]:
```suggestion
  convert (AddMonoidHom.map_mclosure NNRat.coeHom <| range fun x ↦ x ^ n).symm
```

**Comment by j-loreaux** [comment]
Thanks!

bors merge
